US09163011B2
b) 1-(6-Bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-ethanone
To a solution of diisopropylamine (25.4 g, 251 mmol) in THF (500 ml) was added n-BuLi (100 ml, 2.5 mol/L in hexanes) below −50° C. A solution of 2-bromo-5-fluoro-4-triethylsilanyl-pyridine (56.04 g, 193 mmol) in THF (60 ml) was added to the LDA-solution at −78° C. in a dropwise manner below −65° C. After 70 minutes at −78° C. DMA (23.51 ml, 251 mmol) was added dropwise in a fast manner to the deep red solution keeping the temperature below −57° C. After 15 minutes the cooling bath was removed and the reaction mixture was allowed to reach −40° C. The cold reaction mixture was poured on a mixture of 2M aq. HCl (250 ml)/water (200 ml)/brine (100 ml). Tert.-butyl methyl ether was added and the layers were separated. The organic phase was washed twice with brine, dried over magnesium sulfate, filtered and evaporated to give a yellow oil. The crude product (64.76 g) was chromatographed over silica gel (hexane/TBME) to give the title compound as a yellow liquid: 58.3 g (91% yield).

reactant | diisopropylamine | 251 mmol, 25.4 g | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 2.5 mol/L, 100 ml | [Li]CCCC
reactant | 2-bromo-5-fluoro-4-triethylsilanyl-pyridine | 193 mmol, 56.04 g | BrC1=NC=C(C(=C1)[Si](CC)(CC)CC)F | C11H17BrFNSi
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | DMA | 251 mmol, 23.51 ml | CC(=O)N(C)C | C4H9NO
reactant | HCl | 2M, 250 ml | Cl | ClH
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | brine | 100 ml | [Cl-].[Na+].O
solvent | Tert.-butyl methyl ether | COC(C)(C)C | C5H12O
solvent | water | 200 ml | O | H2O
product | 1-(6-Bromo-3-fluoro-4-triethylsilanyl-pyridin-2-yl)-ethanone | 91% yield | BrC1=CC(=C(C(=N1)C(C)=O)F)[Si](CC)(CC)CC | C13H19BrFNOSi
